US06541638B2
In analogy to the general synthesis of the amines, 3-(chloromethyl)-1,2,4-oxadiazole and 1-amino-3-methylbutane and Nal in toluene gave (3-Methyl-butyl)-[1,2,4]oxadiazol-3-ylmethyl-amine (3-Methyl-butyl)-[1,2,4] oxadiazol-3-ylmethyl-amine, MS: 170 (MH+).

reactant | 3-(chloromethyl)-1,2,4-oxadiazole | ClCC1=NOC=N1 | C3H3ClN2O
reactant | 1-amino-3-methylbutane | NCCC(C)C | C5H13N
reactant | Nal | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3-Methyl-butyl)-[1,2,4]oxadiazol-3-ylmethyl-amine (3-Methyl-butyl)-[1,2,4] oxadiazol-3-ylmethyl-amine | CC(CCNCC1=NOC=N1)C.CC(CCNCC1=NOC=N1)C | 2C8H15N3O
